US07030139B2
4A: 4-{[2-(acetylamino)ethyl]amino}-N,N-diethyl-3-nitrobenzamide.
Following general procedure 2B: A mixture of N,N-diethyl-4-fluoro-3-nitrobenzamide (0.200 g, 0.833 mmol), N-(2-aminoethyl)acetamide (0.077 g, 0.757 mmol) in 80% aq. EtOH (5 mL) was heated at 90° C. overnight. After work-up, the crude product was purified by silica gel column chromatography (100% EtOAc to 5% MeOH/EtOAc) to provide the title compound (0.152 g, 63%) as a bright yellow solid. 1H-NMR (CDCl3): δ 8.27 (d overlapping with br s, J=2.0 Hz, 2H), 7.55 (dd, J=8.4 Hz, J=2.0 Hz, 1H), 6.99 (d, J=9.2 Hz, 1H), 6.06 (br s, 1H), 3.58–3.50 (m, 4H), 3.44 (br s, 4H), 2.02 (s, 3H), 1.22 (t, J=7.2 Hz, 6H). MS (ESI) (M+H)+=323.

reactant | N,N-diethyl-4-fluoro-3-nitrobenzamide | 0.833 mmol, 0.200 g | C(C)N(C(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O)CC | C11H13FN2O3
reactant | N-(2-aminoethyl)acetamide | 0.757 mmol, 0.077 g | NCCNC(C)=O | C4H10N2O
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-{[2-(acetylamino)ethyl]amino}-N,N-diethyl-3-nitrobenzamide | 0.152 g, 63% | C(C)(=O)NCCNC1=C(C=C(C(=O)N(CC)CC)C=C1)[N+](=O)[O-] | C15H22N4O4
